USRE037729E1
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (10.0 g, 45 mmol) K2CO3 (10.0 g), 3-bromo-1-propanol (7.3 g, 46 mmol) and acetonitrile (200 ml) was refluxed for 3 hours. The reaction was poured into H2O and 7.1 g of a beige solid was collected. The filtrate was extracted with dichloromethane, and after concentration an additional 6.7 g of crude solid was harvested. The solids were combined and triturated with refluxing ethyl acetate to afford 8.0 g of 6-fluoro-3-[1-(3-hydroxypropyl)-4-piperidinyl]-1,2-benzisoxazole as an off-white solid. A sample (4.0 g) was recrystallized from ethanol-water (with charcoal treatment) to yield 2.4 g (40%) of the alcohol as a white solid, m.p.=140°-142° C. ANALYSIS: Calculated for C13H19FN2O2: 64.73%C 6.88%H 10.06%N Found:. 64.79%C 6.97%H 10.03%N

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 45 mmol, 10.0 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 3-bromo-1-propanol | 46 mmol, 7.3 g | BrCCCO | C3H7BrO
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | H2O | O | H2O
product | 6-fluoro-3-[1-(3-hydroxypropyl)-4-piperidinyl]-1,2-benzisoxazole | 8.0 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCO)C=C1 | C15H19FN2O2
